US04420479
1-Isopropylsulfonyl-2-amino-6-(α-chloromethylenebenzyl)benzimidazole is reacted with sodium hydroxide in acetone and water by the method of Example 43 to give 2-amino-6-(α-chloromethylenebenzyl)benzimidazole. The latter compound is reacted with phenylsulfonyl chloride and sodium hydroxide in dichloromethane to give 1-phenylsulfonyl-2-amino-6-(α-chloromethylenebenzyl)benzimidazole.

reactant | 1-Isopropylsulfonyl-2-amino-6-(α-chloromethylenebenzyl)benzimidazole | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=CCl)N | C18H18ClN3O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-amino-6-(α-chloromethylenebenzyl)benzimidazole | NC=1NC2=C(N1)C=C(C=C2)C(C2=CC=CC=C2)=CCl | C15H12ClN3
